US07384952B2
To 4-[2-(dimethylamino)ethoxy]benzoic acid hydrochloride (66 mg, compound obtained in Reference example 78(2)) is added successively methylene chloride (2 mL), 1-(3-ethoxybenzyl)-4-piperazin-1-yl-1H-pyrazolo[3,4-d]pyrimidine dihydrochloride (100 mg), 1-hydroxybenzotriazole (49.3 mg), triethylamine (118.6 μL) and 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride (70 mg) and the mixture is stirred at room temperature for 17 hours. The reaction mixture is diluted with chloroform (5 mL) and thereto is added a saturated sodium hydrogencarbonate solution (10 mL). After stirring, the organic layer is separated and concentrated. The resultant crude product is purified by flash column chromatography on NH-silica gel (Solvent; ethyl acetate:chloroform=1:0→0:1) to give 1-(3-ethoxybenzyl)-4-[4-[4-[2-(dimethylamino)ethoxy]benzoyl]piperazin-1-yl]-1H-pyrazolo[3,4-d]pyrimidine (103 mg, yield; 69%) as an amorphous powder. MS (APCI) m/z: 530 [M+H]+

reactant | 4-[2-(dimethylamino)ethoxy]benzoic acid hydrochloride | 66 mg | Cl.CN(CCOC1=CC=C(C(=O)O)C=C1)C
reactant | 1-(3-ethoxybenzyl)-4-piperazin-1-yl-1H-pyrazolo[3,4-d]pyrimidine dihydrochloride | 100 mg | Cl.Cl.C(C)OC=1C=C(CN2N=CC=3C2=NC=NC3N3CCNCC3)C=CC1
reactant | 1-hydroxybenzotriazole | 49.3 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride | 70 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | sodium hydrogencarbonate | 10 mL | C(O)([O-])=O.[Na+]
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 118.6 μL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-ethoxybenzyl)-4-[4-[4-[2-(dimethylamino)ethoxy]benzoyl]piperazin-1-yl]-1H-pyrazolo[3,4-d]pyrimidine | 103 mg, yield; 69% | C(C)OC=1C=C(CN2N=CC=3C2=NC=NC3N3CCN(CC3)C(C3=CC=C(C=C3)OCCN(C)C)=O)C=CC1 | C29H35N7O3
